US09120761B2
(a) 4-Chloro-2-(methylthio)-5-(trifluoromethyl)pyrimidine (I11)
To a solution of the 2,4-dichloro-5-(trifluoromethyl)pyrimidine (2.50 g, 11.5 mmol) in THF (50 mL) in an ice bath under nitrogen was added zinc(II) chloride (1.0 M in ether, 13.8 mL, 13.8 mmol) dropwise. The mixture was stirred in the ice bath for two hours, then sodium methanethiolate (0.888 g, 12.7 mmol) was added. The mixture was stirred overnight, allowing the reaction to slowly come to room temperature. After 18 hours the reaction was quenched with 2 M HCl (15 mL), and the organics removed by evaporation under reduced pressure. The aqueous residue was diluted with brine (15 mL), and extracted with DCM (3×30 mL). The combined organic phases were dried (phase separator) and carefully evaporated to give a pale yellow oil. Chromatography (2×40 g silica cartridge, 0-20% DCM/n-hexane) followed by carefully evaporation of solvent (40° C. @ 400 mmHg then room temperature @ 200 mmHg) gave the title compound (I11) (2.149 g, 82% yield) as a colourless oil; 1H NMR (600 MHz, CDCl3) δ 8.66 (s, 1H), 2.61 (s, 3H). LCMS Method C: rt: 7.95 min; m/z 229.1[M+H]+. Note: I11 is volatile.

reactant | 2,4-dichloro-5-(trifluoromethyl)pyrimidine | 11.5 mmol, 2.50 g | ClC1=NC=C(C(=N1)Cl)C(F)(F)F | C5HCl2F3N2
reactant | sodium methanethiolate | 12.7 mmol, 0.888 g | C[S-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | zinc(II) chloride | 13.8 mmol, 1.0 M, 13.8 mL | [Cl-].[Zn+2].[Cl-]
product | 4-Chloro-2-(methylthio)-5-(trifluoromethyl)pyrimidine | 2.149 g, 82% yield | ClC1=NC(=NC=C1C(F)(F)F)SC | C6H4ClF3N2S
